US04959293
A suspension of 0.45 gm (12 mmole) of sodium hydride dispersion (60%) in 75 mL of tetrahydrofuran was treated with 2.0 gm (12 mmole) of 1,5-decalindiol in an inert atmosphere. This mixture was stirred overnight at about 56° C. then cooled to room temperature and 1.8 gm (12 mmole) of t-butyldimethylsilyl chloride added. The mixture was stirred at room temperature for 4 days then 200 mL of diethyl ether added followed by washing the resulting mixture with 10% aqueous potassium carbonate. The organic layer was dried over sodium sulfate and concentrated in vacuo. The residue was subjected to flash chromatography on 40 microns silica gel to give 5-(t-butyldimethylsilyloxy)-1 -hydroxydecalin as a clear, colorless oil. Satisfactory ir, cmr and pmr spectra were obtained.

reactant | sodium hydride | 12 mmole, 0.45 gm | [H-].[Na+]
reactant | 1,5-decalindiol | 12 mmole, 2.0 gm | C1(CCCC2C(CCCC12)O)O | C10H18O2
reactant | t-butyldimethylsilyl chloride | 12 mmole, 1.8 gm | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | diethyl ether | 200 mL | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 75 mL | O1CCCC1 | C4H8O
product | 5-(t-butyldimethylsilyloxy)-1 -hydroxydecalin | [Si](C)(C)(C(C)(C)C)OC1C2CCCC(C2CCC1)O | C16H32O2Si
